US08685974B2
A mixture of tetrakis(triphenylphosphine)palladium(0) (0.025 eq, 4.22 mmol), 4-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole (1 eq, 0.17 mol, synthesis described in US2009/203705), sodium carbonate (675 mL, 2.0 M solution in water, 1.35 mol) and 4-pyridine boronic acid (1.2 eq, 0.21 mol) in dioxane (2000 mL) was heated under argon 41 h at 80° C. After that time, the reaction mixture was diluted with water (50 mL) and the volatiles were reduced in vacuo to a quarter of the volume. The crude was extracted with ethyl acetate and the combined organic fractions were washed with brine, dried over MgSO4 and evaporated. The obtained crude material was purified by bulb-to-bulb distillation (bp 130-135° C. at 0.02 mm Hg) and 26.37 g (68%) 4-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]pyridine were obtained as slightly yellow viscuous oil.

reactant | 4-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | BrC=1C=NN(C1)C1OCCCC1 | C8H11BrN2O
reactant | sodium carbonate | 1.35 mol, 2.0 M, 675 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-pyridine boronic acid | 0.21 mol, 1.2 eq | N1=CC=C(C=C1)B(O)O | C5H6BNO2
solvent | dioxane | 2000 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.22 mmol, 0.025 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]pyridine | 26.37 g, 68% | O1C(CCCC1)N1N=CC(=C1)C1=CC=NC=C1 | C13H15N3O
